US07390814B2
a) 3-(4-Chlorophenyl)-N-(2,2-diethoxyethyl)-N-isopropyl-2-[3-(4-methoxybenzenesulfonylamino)propionylamino]propionamide
52 mg of EDC, 45 mg of HOBt and 100 μl of N-ethylmorpholine are added to a solution of 124 mg of 3-(4-methoxybenzenesulfonylamino)propionic acid in 1 ml of DMF. A solution of 100 mg of 2-amino-3-(4-chlorophenyl)-N-(2,2-diethoxyethyl)-N-isopropylpropionamide in 1 ml of DMF is added dropwise thereto, and the mixture is left to stir for 12 h. The reaction solution is filtered, mixed with ethyl acetate and then extracted with 5% aqueous sodium bicarbonate solution and aqueous sodium chloride solution. Drying of the organic phase with Chromabond XTR is followed by concentration under reduced pressure, and the residue is separated by HPLC (Knauer Eurospher-100-10-C18, water (0.1% trifluoroacetic acid)/acetonitrile (0.1% trifluoroacetic acid)=80/20→10/90). The desired product is obtained with MW=598.16 (calculated); measured value (M−C2H6O+H)+: 552.1

reactant | HOBt | 45 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-ethylmorpholine | 100 μl | C(C)N1CCOCC1 | C6H13NO
reactant | 3-(4-methoxybenzenesulfonylamino)propionic acid | 124 mg | COC1=CC=C(C=C1)S(=O)(=O)NCCC(=O)O | C10H13NO5S
reactant | 2-amino-3-(4-chlorophenyl)-N-(2,2-diethoxyethyl)-N-isopropylpropionamide | 100 mg | NC(C(=O)N(C(C)C)CC(OCC)OCC)CC1=CC=C(C=C1)Cl | C18H29ClN2O3
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | EDC | 52 mg
product | 3-(4-Chlorophenyl)-N-(2,2-diethoxyethyl)-N-isopropyl-2-[3-(4-methoxybenzenesulfonylamino)propionylamino]propionamide | ClC1=CC=C(C=C1)CC(C(=O)N(C(C)C)CC(OCC)OCC)NC(CCNS(=O)(=O)C1=CC=C(C=C1)OC)=O | C28H40ClN3O7S
